US09212190B2
A 50-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]-2-cyanoethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (2.2 g, 3.75 mmol, 1.00 equiv) in 20 mL of methanol was added LiOH (315 mg), followed by addition of H2O2 (30%, 3 mL) via syringe at 0° C. with vigorous stirring. The resulting solution was stirred for 3 h at 20° C. The reaction was then quenched by the addition of 50 mL of saturated aqueous Na2SO3, extracted with 3×100 mL of ethyl acetate. The organic layers were combined, washed with 2×30 mL of brine, and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1-2:1) to afford the desired tert-butyl N-(4-[[(3R)-3-[(2R)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (0.7 g) as a white solid. MS: m/z 605 (M+H)+, 627 (M+Na)+.

reactant | tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]-2-cyanoethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 3.75 mmol, 2.2 g, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C#N | C30H46N4O4SSi
reactant | LiOH | 315 mg | [Li+].[OH-]
reactant | H2O2 | 3 mL | OO | H2O2
solvent | methanol | 20 mL | CO | CH4O
product | tert-butyl N-(4-[[(3R)-3-[(2R)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.7 g | [Si](C)(C)(C(C)(C)C)O[C@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C(N)=O | C30H48N4O5SSi
